US05149767
85.1 g (0.351 mol) of di-(p-methylbenzyl) sulfide and 51.5 g (0.421 mol) of p-methylbenzyl alcohol are initially introduced into 250 ml of methylene chloride under an N2 atmosphere in a reaction vessel (750 ml) provided with a stirrer and thermometer. 142.7 g of an approximately 54% by weight HBF4 solution in diethyl ether is added dropwise at an internal temperature of 20°-30° C. in the course of 40 min, while stirring. The reaction mixture is stirred at RT for 2 h. The reaction mixture is diluted with methylene chloride and extracted 4 times by shaking with deionized water (pH 5-6). The organic phase is dried with MgSO4 and the methylene chloride is removed on a rotary evaporator. The product, which has not been completely freed from methylene chloride, is stirred in 250 ml of toluene at RT for about 1 h and then at 0°-5° C. for 1 h. The crystals which have now precipitated are filtered off with suction and washed with a little toluene. The product is dried under a high vacuum at room temperature for 19 h. 118.6 g of tris-(p-methylbenzyl)-sulfonium tetrafluoroborate are obtained as white crystals of melting point 168°-170° C.

reactant | di-(p-methylbenzyl) sulfide | 0.351 mol, 85.1 g | CC1=CC=C(CSCC2=CC=C(C=C2)C)C=C1 | C16H18S
reactant | p-methylbenzyl alcohol | 0.421 mol, 51.5 g | CC1=CC=C(CO)C=C1 | C8H10O
reactant | HBF4 | [H+].[B-](F)(F)(F)F
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | tris-(p-methylbenzyl)-sulfonium tetrafluoroborate | 118.6 g | F[B-](F)(F)F.CC1=CC=C(C[S+](CC2=CC=C(C=C2)C)CC2=CC=C(C=C2)C)C=C1 | InChI=1S/C24H27S.BF4/c1-19-4-10-22(11-5-19)16-25(17-23-12-6-20(2)7-13-23)18-24-14-8-21(3)9-15-24;2-1(3,4)5/h4-15H,16-18H2,1-3H3;/q+1;-1
